US06307047B1
2-(4-Fluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 459, substituting 2-(4-fluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3,4-difluorophenyl)-4-(2-hydroxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 600 mg, 60%). mp 163-164° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.05 (s, 6H), 1.73 (t, J=6 Hz, 2H), 4.30 (s, 1H), 4.52 (t, J=6 Hz, 2H), 7.37 (t, J=9 Hz, 1H), 7.47 (s, 2H, 7.37 (dd, J=9 Hz, J=3 Hz, 2H), 8.83 (d, J=9 Hz, 2H), 8.95 (d, J=9 Hz, 2H), 8.18 (s, 1H); MS (DCI/NH3) m/z 448 (M+H)+. Anal. calcd. for C21H22FN3O5S: C, 56.36; H, 4.95; N, 9.39. Found: C, 55.96; H. 4.89; N, 9.09.

reactant | 2-(4-fluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCCC(C)(C)O)C1=CC=C(C=C1)S(=O)(=O)C | C22H23FN2O5S
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCCC(C)(C)O)C1=CC=C(C=C1)S(=O)(=O)N | C21H22FN3O5S
